US07943609B2
A 2-L, three-necked, Morton flask, equipped with mechanical stirrer, was charged with 7-bromo-1-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline (38.0 g, 81.0 mmol) and 1,2-dichloroethane (900 mL) and the mixture was cooled to 1° C. A 1.0 M solution of tetrabutylammonium fluoride in THF (90 mL, 90 mmol) was slowly added over 1.5 hours. The reaction temperature was maintained at 1-2° C. during addition. The reaction was allowed to slowly warm to ambient temperature and stirring was continued for 2 days. The reaction was treated with saturated aqueous K2CO3 solution (500 mL) and H2O (400 mL). The layers were separated and the aqueous portion was extracted with CH2Cl2 (3×100 mL). The organic layers were combined and concentrated under reduced pressure to give a tan solid. Chromatography (SiO2, 0-6% methanol/CH2Cl2) gave 12.5 g of (11S)-3-bromo-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline as an off-white solid which was used without further purification. A small sample was crystallized from acetonitrile to give white crystals, mp 207-209° C.

reactant | 7-bromo-1-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline | 81.0 mmol, 38.0 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3[C@H](CO[Si](C)(C)C(C)(C)C)C)CCl | C20H27BrClN3OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 90 mmol, 90 mL | C1CCOC1 | C4H8O
reactant | K2CO3 | 500 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
solvent | H2O | 400 mL | O | H2O
solvent | 1,2-dichloroethane | 900 mL | ClCCCl | C2H4Cl2
product | (11S)-3-bromo-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 12.5 g | BrC1=CC=C2C3=C(C=NC2=C1)N=C1N3[C@H](COC1)C | C14H12BrN3O
